US06906113B2
c) Preparation of Ethyl 4-allyloxybenzoylformate
1.62 g (8.39 mmol) ethyl 4-hydroxybenzoylformate and 5.79 g (42 mmol) K2CO3 are dissolved in 70 ml acetone. 1.22 g (10.1 mmol) allyl bromide is added dropwise at room temperature. The mixture is heated at 40° C. for 3.25 hours under nitrogen atmosphere. The mixture is then filtered and evaporated. The phases are separated and water is extracted with toluene. The organic phases are dried over magnesium sulfate. Evaporation of the solvent and chromatography (eluent: hexane ethyl acetate 3:1) give 1.39 g (71 wt %) of a yellow oil.

reactant | ethyl 4-hydroxybenzoylformate | 8.39 mmol, 1.62 g | OC1=CC=C(C(=O)C(=O)OCC)C=C1 | C10H10O4
reactant | K2CO3 | 42 mmol, 5.79 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 10.1 mmol, 1.22 g | C(C=C)Br | C3H5Br
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | Ethyl 4-allyloxybenzoylformate | C(C=C)OC1=CC=C(C(=O)C(=O)OCC)C=C1 | C13H14O4
